US05912256
1-(4-indolyloxy)-3-[4-hydroxy-4-(6-benzyloxynaphth-2-yl)piperidine-1-yl]propane
Beginning with 0.189 gm (0.90 mMol) 1-(4-indolyloxy)-3-chloropropane and 0.300 gm (0.90 mMol) 4-hydroxy-4-(6-benzyloxynaphth-2-yl)piperidine, 0.137 gm (30%) of the title compound was recovered as a white solid by the procedure described in Example 1.

reactant | 1-(4-indolyloxy)-3-chloropropane | 0.90 mMol, 0.189 gm | N1C=CC2=C(C=CC=C12)OCCCCl | C11H12ClNO
reactant | 4-hydroxy-4-(6-benzyloxynaphth-2-yl)piperidine | 0.90 mMol, 0.300 gm | OC1(CCNCC1)C1=CC2=CC=C(C=C2C=C1)OCC1=CC=CC=C1 | C22H23NO2
product | 1-(4-indolyloxy)-3-[4-hydroxy-4-(6-benzyloxynaphth-2-yl)piperidine-1-yl]propane | 0.137 gm, 30% | N1C=CC2=C(C=CC=C12)OCCCN1CCC(CC1)(C1=CC2=CC=C(C=C2C=C1)OCC1=CC=CC=C1)O | C33H34N2O3
